US07691882B2
5-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-6-methyl-pyridin-2-ylamine
To a mixture of 4-benzyloxy-phenyl-acetohydroximoyl chloride (59 mg, 0.21 mmol) described in Manufacturing Example 1-1-3 and tetrahydrofuran (1 mL) were added 5-ethynyl-6-methyl-pyridin-2-ylamine (22 mg, 0.16 mmol) described in Manufacturing Example 187-1-2 and triethylamine (46 μL, 0.33 mmol), which was stirred for 2 hours at 50° C. The reaction mixture was allowed to room temperature, water was added at the same temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue thus obtained was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:2) to obtain the title compound (35 mg, 57%).

reactant | 4-benzyloxy-phenyl-acetohydroximoyl chloride | 0.21 mmol, 59 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 5-ethynyl-6-methyl-pyridin-2-ylamine | 0.16 mmol, 22 mg | C(#C)C=1C=CC(=NC1C)N | C8H8N2
reactant | triethylamine | 0.33 mmol, 46 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-6-methyl-pyridin-2-ylamine | 35 mg, 57% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C=CC(=NC2C)N)C=C1 | C23H21N3O2
